US07125896B2
b) 4,4-Difluoro-(2-(2-bromophenoxy)ethyl)piperidine
2-(2-Bromophenoxy)ethyl tosylate (1.86 g), 4,4-difluoropiperidine (0.73 g) and potassium carbonate (0.97 g) were mixed with dimethylformamide (30 ml) and heated to 60° C. for 18 h. The mixture was cooled and added to water (300 ml). The mixture was extracted with diethyl ether (×3), dried and evaporated. Purification was achieved using cation exchange chromatography eluting with ammonia/methanol/dichloromethane mixtures yielding, 4-difluoro-(2-(2-bromophenoxy)ethyl)piperidine (0.77 g).

reactant | 2-(2-Bromophenoxy)ethyl tosylate | 1.86 g | S(=O)(=O)(OCCOC1=C(C=CC=C1)Br)C1=CC=C(C)C=C1 | C15H15BrO4S
reactant | 4,4-difluoropiperidine | 0.73 g | FC1(CCNCC1)F | C5H9F2N
reactant | potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 4,4-Difluoro-(2-(2-bromophenoxy)ethyl)piperidine | FC1(CCN(CC1)CCOC1=C(C=CC=C1)Br)F | C13H16BrF2NO
